US05663162
c) 7-(formylamino)methylimidazo[5,1-b]thiazole
To the ice-cooled solution of the whole amount of the crude 7-aminomethyl-imidazo[5,1-b]thiazole in 5 ml of dichloromethane was added a mixture of 0.5 ml of formic acid and 0.5 ml of acetic anhydride which had been preliminarily sitrred and reacted at 50° C. for 10 minutes. The resulting mixture was stirred under ice-cooling for 30 minutes. To the reaction mixture were added 10 ml of water, 20 ml of dichloromethane and 5 ml of a 50% aqueous potassium carbonate solution, and the organic layer was separated. The aqueous layer was further extracted thrice with 20 ml of dichloromethane. The combined organic layer was purified by flash column chromatography on silica gel (eluted with chloroform: methanol=15:1) to give the title compound in a yield of 0.088 g (36%). NMR (CDCl3) δ: 4.53 (2H, d, J=5.8 Hz), 6.84 (1H, d, J=4.2 Hz), 6.86 (1H, br), 7.38 (1H, d, J=4.2 Hz), 7.93 (1H, s), 8.26 (1H, s).

reactant | 7-aminomethyl-imidazo[5,1-b]thiazole | NCC=1N=CN2C1SC=C2 | C6H7N3S
reactant | formic acid | 0.5 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 7-(formylamino)methylimidazo[5,1-b]thiazole | C(=O)NCC=1N=CN2C1SC=C2 | C7H7N3OS
